US04933333
In the same manner as described in Reference Example 1-2 but using 500 mg of trans-1-p-nitrobenzyloxycarbonyl-4-hydroxy-L-proline and 383 mg of p-nitrobenzyl bromide, trans-1-p-nitrobenzyloxycarbonyl-4-hydroxy-L-proline p-nitrobenzyl ester was obtained.

reactant | trans-1-p-nitrobenzyloxycarbonyl-4-hydroxy-L-proline | 500 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C(=O)O)C[C@H](C2)O)C=C1 | C13H14N2O7
reactant | p-nitrobenzyl bromide | 383 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | trans-1-p-nitrobenzyloxycarbonyl-4-hydroxy-L-proline p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC([C@H]2N(C[C@@H](C2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C20H19N3O9
